US06060508
0.2 g (0.81 mmol) of 2,3-dimethyl-7-[l-(diethylamino)ethyl]benzofuran and 2 ml of a 6N solution of hydrochloric acid in isopropanol are placed in a 100 ml round-bottomed flask. The salt is concentrated under vacuum and recrystallized from ethyl acetate and diisopropyl ether. 0.142 g (Yield: 61%) of 2,3-dimethyl-7-[1-(diethylamino)ethyl]benzofuran hydrochloride is obtained in the form of a solid. M.p.=28-30° C.

reactant | 2,3-dimethyl-7-[l-(diethylamino)ethyl]benzofuran | 0.81 mmol, 0.2 g | CC=1OC2=C(C1C)C=CC=C2C(C)N(CC)CC | C16H23NO
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2,3-dimethyl-7-[1-(diethylamino)ethyl]benzofuran hydrochloride | 0.142 g, Yield: 61% | Cl.CC=1OC2=C(C1C)C=CC=C2C(C)N(CC)CC | InChI=1S/C16H23NO.ClH/c1-6-17(7-2)12(4)15-10-8-9-14-11(3)13(5)18-16(14)15;/h8-10,12H,6-7H2,1-5H3;1H
